US07985862B2
(Step 1) To a 40% methylamine methanol solution (5 ml) was added 3-cyanobenzenesulfonyl chloride (0.88 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure, saturated brine was added, and the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure. 10% Palladium carbon powder (0.46 g) was added to a solution (10 ml) of the residue in ethanol, and the mixture was stirred overnight under a hydrogen atmosphere (1 atm). The solution was filtered through celite. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate) to give 3-(aminomethyl)-N-methylbenzenesulfonamide (0.38 g) as a colorless oil.

reactant | methylamine methanol | 5 ml | CO.CN
reactant | 3-cyanobenzenesulfonyl chloride | 0.88 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
product | 3-(aminomethyl)-N-methylbenzenesulfonamide | 0.38 g | NCC=1C=C(C=CC1)S(=O)(=O)NC | C8H12N2O2S
